US06503907B2
In anaolgy to Geri, Roberto; Polizzi, Carmela; Lardicci, Luciano; Caporusso, Anna Maria; Gazz.Chim.Ital.; 124; 6; 1994; 241-248: To 14.3 ml (146.3 mmol) 2-Ethylaminoethanol in 60 ml THF were added 362 mg (3.7 mmol) CuCl, followed by 7.5 g (73.1 mmol) 3-Chloro-3-methyl-1-butyne. The solution was stirred at RT for 2 h, the solvent was removed and the residue dissolved in ether/2M HCl. The phases were separated and after addition of Na2CO3 to the aqueous phase (pH9), it was extracted with ether. The ether phase was dried over Na2SO4 and concentrated. Destillation by Kugelrohr yielded 2-[(1,1-Dimethyl-prop-2-ynyl)-ethyl-amino]-ethanol as colorless oil, MS: 155 (M).

reactant | 2-Ethylaminoethanol | 146.3 mmol, 14.3 ml | C(C)NCCO | C4H11NO
reactant | 3-Chloro-3-methyl-1-butyne | 73.1 mmol, 7.5 g | ClC(C#C)(C)C | C5H7Cl
solvent | THF | 60 ml | C1CCOC1 | C4H8O
catalyst | CuCl | 3.7 mmol, 362 mg | Cl[Cu]
product | 2-[(1,1-Dimethyl-prop-2-ynyl)-ethyl-amino]-ethanol | CC(C#C)(C)N(CCO)CC | C9H17NO
